US08609731B2
Methyl-((S)-6 pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amine
According to method B, [(S)-6-(pyrrolidine-1-carbonyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid tert-butyl ester was reacted with lithium aluminum hydride (10 equiv., 60° C., 2 hours). The product was thus obtained with the molecular weight of 244.38 (C16H24N2); MS (ESI): 245 (M+H+).

reactant | [(S)-6-(pyrrolidine-1-carbonyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC2=CC=C(C=C2CC1)C(=O)N1CCCC1)=O | C20H28N2O3
reactant | lithium aluminum hydride | 10 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | Methyl-((S)-6 pyrrolidin-1-ylmethyl-1,2,3,4-tetrahydronaphthalen-2-yl)amine | CN[C@@H]1CC2=CC=C(C=C2CC1)CN1CCCC1 | C16H24N2
